US05807855
(±)-Trans-8-[6-chloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-yl]-5-methyl-5,8-diazaspiro[3.5]nonane, dihydrochloride;
(±)-Trans-9-[6-chloro-3-(4-fluorophenyl)-2,3-dihydro- 1H-inden- 1-yl]-6-methyl-6,9-diazaspiro[4.5]decane, fumarate; mp 144°-147° C. Compd. 29.

reactant | (±)-Trans-9-[6-chloro-3-(4-fluorophenyl)-2,3-dihydro- 1H-inden- 1-yl]-6-methyl-6,9-diazaspiro[4.5]decane | ClC1=CC=C2[C@@H](C[C@H](C2=C1)N1CCN(C2(CCCC2)C1)C)C1=CC=C(C=C1)F | C24H28ClFN2
reactant | fumarate | C(\C=C\C(=O)[O-])(=O)[O-]
product | (±)-Trans-8-[6-chloro-3-(4-fluorophenyl)-2,3-dihydro-1H-inden-1-yl]-5-methyl-5,8-diazaspiro[3.5]nonane, dihydrochloride | Cl.Cl.ClC1=CC=C2[C@@H](C[C@H](C2=C1)N1CCN(C2(CCC2)C1)C)C1=CC=C(C=C1)F | InChI=1S/C23H26ClFN2.2ClH/c1-26-11-12-27(15-23(26)9-2-10-23)22-14-20(16-3-6-18(25)7-4-16)19-8-5-17(24)13-21(19)22;;/h3-8,13,20,22H,2,9-12,14-15H2,1H3;2*1H/t20-,22+;;/m0../s1
